US06545159B2
Preparation of 2-(2-vinyl-phenyl)pyridine
The reaction was performed with 2-vinyl-phenylboronic acid (10 g, 0.0676 mol), 2-bromopyridine (12.64 g, 0.08 mol), tetrahydrofuran (100 ml), 2M potassium carbonate aqueous solution (26 ml), and tetrakis(triphenylphosphine) palladium (Pd(Ph3)4, 0.06 g, 1 mol %) according to Example 1. The yield was 75%.

reactant | 2-vinyl-phenylboronic acid | 0.0676 mol, 10 g | C(=C)C1=C(C=CC=C1)B(O)O | C8H9BO2
reactant | 2-bromopyridine | 0.08 mol, 12.64 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 2M, 26 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine) palladium | 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-vinyl-phenyl)pyridine | yield was 75% | C(=C)C1=C(C=CC=C1)C1=NC=CC=C1 | C13H11N
